US06313127B1
A solution of 2-fluoro-4-bromobenzoic acid (0.24 g) in dry dimethylformamide (10 ml) was treated with 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (0.17 g) and stirred for 30 minutes at ambient temperature under argon. A solution of 1-(4-pyridyl)piperazine (1.6 g) in dry dimethylformamide (3 ml) was added to the mixture and the mixture cooled to 50° C. The reaction was then allowed to warm to room temperature and stirred overnight. The solution was poured into water and then extracted into diethyl ether, washed with aqueous sodium hydrogen carbonate solution, water, brine. dried (Na2SO4) and evaporated to yield a colourless oil. This oil was then triturated with diethyl ether and recrystallised from ethyl acetate/isohexane to give 1-(4-pyridyl)-4-(2-fluoro-4-bromobenzoyl)piperazine (0.14 g) as a solid, m.p. 125-126° C.: microanalysis, found: C, 52.6; H, 4.1; N, 11.2%; C16H15BrFN3O requires: C, 52.8; H, 4.15; N, 11.5%; NMR: (CDCl3) 3.32(t,2H), 3.46(t,4H), 3.94(t,2H), 6.68(dd,2H), 7.29-7.43(m,3H), 8.33(d,2H); MS: m/z 364 (MH)+.

reactant | 2-fluoro-4-bromobenzoic acid | 0.24 g | FC1=C(C(=O)O)C=CC(=C1)Br | C7H4BrFO2
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.17 g | Cl.CN(CCCN=C=NCC)C
reactant | 1-(4-pyridyl)piperazine | 1.6 g | N1=CC=C(C=C1)N1CCNCC1 | C9H13N3
reactant | water | O | H2O
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | 1-(4-pyridyl)-4-(2-fluoro-4-bromobenzoyl)piperazine | 0.14 g | N1=CC=C(C=C1)N1CCN(CC1)C(C1=C(C=C(C=C1)Br)F)=O | C16H15BrFN3O
